US06265411B1
A mixture of 4-(5-benzyloxy-1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (240 mg, 0.38 mmol) and TFA (8 ml) was heated at reflux for 30 minutes. The TFA was removed by evaporation, the residue was triturated with ether, the solid was collected by filtration, washed with ether and dried under vacuum. The orange solid thus obtained was dissolved in a 1M hydrochloric acid solution (5 ml, 5 mmol) and heated at reflux for 40 minutes. After cooling, the reaction mixture was adjusted to pH2.3 with 6M sodium hydroxide and subjected to column chromatography on reverse phase silica gel (C18 10μ) with a gradient of methanol in water (30 to 100%) as eluent The fractions containing the compound were combined, the solution was adjusted to pH1.5 with concentrated hydrochloric acid and the solvents removed by evaporation The residue was triturated with methanol/ether, the solid was collected by filtration, washed with ether and dried under vacuum at 40° C. to give 4-(5-hydroxyoxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline as a hydrochloride salt (90 mg, 45%) as an orange solid.

reactant | 4-(5-benzyloxy-1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.38 mmol, 240 mg | C(C1=CC=CC=C1)OC=1C=C2C(C(N(C2=CC1)C(OCC)OCC)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C36H42N4O7
reactant | TFA | 8 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | hydrochloric acid | 5 mmol, 1M, 5 ml | Cl | ClH
reactant | sodium hydroxide | 6M | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-(5-hydroxyoxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | OC=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C24H26N4O5
